Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
right upper quadrant abdominal pain 
 
Major Surgical or Invasive Procedure:
None 

 
History of Present Illness:
Ms. ___ is a ___ with h/o morbid obesity, GERD, ___ 
___
disease initially p/w unrelenting RUQ abdominal pain found to
have cholelithiasis c/f clinical acute cholecystitis now
transferred from ___ for operative intervention. Briefly,
patient reports 10 days of worsening epigastric/RUQ abdominal
pain radiating to her back. She denies any nausea/vomiting,
fevers/chills, jaundice/pruritis, diarrhea/constipation. She was
evaluated at ___ she was afebrile and 
hemodynamically
stable. Labs were notable for normal WBC count (6)and was found
to have evidence of cholelithiasis on ultrasound imaging c/f
clinical cholecystitis. Given her history of ___
disease and prior postpartum hemorrhage, the decision was made 
to
transfer her to ___ for planned operative intervention. After
initial examination of the patient she mentioned the pain is
continuous, not related to the food intake and she mentioned 
that
recently she started some new exercise which involves stretching
of the upper body. No signs of acute cholecystitis.
 
Past Medical History:
- ___ disease c/b postpartum bleeding requiring
hysterectomy
- morbid obesity
- GERD
 
Social History:
___
Family History:
Sister with ___ disease and Factor XI deficiency
 
Physical Exam:
 Temp: 98.4, BP: 131/87, HR: 70 RR: 18, O2 sat: 98% O2 delivery:

Gen: A&Ox3, well-appearing female, in NAD
HEENT: No scleral icterus, no palpable LAD
Pulm: comfortable on room air
CV: NRRR, no m/r/g
Abd: soft, NT/ND, no rebound/guarding, no palpable masses
Ext: WWP bilaterally, no c/c/e, no ulcerations
Neuro: moves all limbs spontaneously, no focal deficits

 
Pertinent Results:
___ 06:46AM BLOOD WBC-5.9 RBC-4.81 Hgb-13.5 Hct-40.6 MCV-84 
MCH-28.1 MCHC-33.3 RDW-13.2 RDWSD-41.1 Plt ___
___ 06:46AM BLOOD Plt ___
___ 06:46AM BLOOD ALT-22 AST-19 AlkPhos-96 TotBili-0.5
 
Brief Hospital Course:
Mrs. ___ was admitted on ___ due to abdominal pain 
related to a finding of cholelithiasis on ultrasound and given 
her history of ___ disease she was transferred for 
possible surgery.  She report complete resolution of abdominal 
pain and is currently feeling well and tolerating a regular diet 
without any issues, LFTs and CBC were ordered in the morning for 
follow-up were found within the normal limits this morning.  The 
pain seemed to be related to a work out regimen recently 
initiated with a personal trainer.  She was explained the 
warning signs of cholecystitis and and she was instructed to 
visit Dr. ___  ___ any question regarding pain associated 
witch cholelitisis
 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
2.  Lansoprazole Oral Disintegrating Tab 30 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
resolved abdominal pain

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

___ was a pleasure taking care of you here at ___ 
___. You were admitted to our hospital for 
abdominal pain related to your recently diagnosed 
cholelithiasis. You have recovered and are now ready to be 
discharged to home. Please follow the recommendations below to 
ensure a speedy and uneventful recovery. 
 

ACTIVITY:
 
- Do not drive until you have stopped taking pain medicine and 
feel you could respond in an emergency.
 
- You may climb stairs. 
 
- You may go outside, but avoid traveling long distances until 
you see your surgeon at your next visit.
 
- You may start some light exercise when you feel comfortable.
 
- Heavy exercise may be started after 6 weeks, but use common 
sense and go slowly at first.
 
- You may resume sexual activity unless your doctor has told you 
otherwise.
 

 
HOW YOU MAY FEEL: 
 
- You may feel weak or "washed out" for 6 weeks. You might want 
to nap often. Simple tasks may exhaust you.
 
- You may have a sore throat because of a tube that was in your 
throat during the endoscopy.
 

 
YOUR BOWELS:
 
- Constipation is a common side effect of medicine such as 
Percocet or codeine. If needed, you may take a stool softener 
(such as Colace, one capsule) or gentle laxative (such as milk 
of magnesia, 1 tbs) twice a day. You can get both of these 
medicines without a prescription.
 
- If you go 48 hours without a bowel movement, or have pain 
moving the bowels, call your surgeon.
 
- After some operations, diarrhea can occur. If you get 
diarrhea, don't take anti-diarrhea medicines. Drink plenty of 
fluids and see if it goes away. If it does not go away, or is 
severe and you feel ill, please call your surgeon.
 

 
PAIN MANAGEMENT:
 
- Your pain should get better day by day. If you find the pain 
is getting worse instead of better, please contact your surgeon.
If you experience any of the following, please contact your 
surgeon:
 
- sharp pain or any severe pain that lasts several hours
- pain that is getting worse over time
- pain accompanied by fever of more than 101
- a drastic change in nature or quality of your pain
 
MEDICATIONS:
- Take all the medicines you were on before the operation just 
as you did before, unless you have been told differently.
- If you have any questions about what medicine to take or not 
to take, please call your surgeon. 

 
Followup Instructions:
___